US07238689B2
To a solution of 3.9 g (102.6 mmoles) of sodium borohydride dissolved in 500 ml of methanol was added, with ice-cooling, a solution of 36.8 g (187.6 mmoles) of 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde dissolved in 200 ml of methanol. The resulting mixture was stirred at 0° C. for 30 minutes to give rise to a reaction. After confirmation of the completion of the reaction, the reaction mixture was poured into water, followed by extraction with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein, to obtain 35.4 g (yield: 95.4%) of (5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol.

reactant | sodium borohydride | 102.6 mmoles, 3.9 g | [BH4-].[Na+]
reactant | 5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboaldehyde | 187.6 mmoles, 36.8 g | FC1=C(C(=NN1C)C(F)(F)F)C=O | C6H4F4N2O
reactant | water | O | H2O
solvent | methanol | 500 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | (5-fluoro-1-methyl-3-trifluoromethyl-1H-pyrazol-4-yl)-methanol | 35.4 g, yield: 95.4% | FC1=C(C(=NN1C)C(F)(F)F)CO | C6H6F4N2O
